US06344476B1
Phosgene (1.93M in toluene, 1.3 mL, 2.5 mmol, 10 equiv) was added rapidly to a solution of methyl 3-amino-5-tert-butylfuran-2-carboxylate (0.050 g, 0.25 mmol) and anh. pyridine (1.0 mL) in anh. toluene (5 mL) at room temp. After 30 min, the orange suspension was concentrated under reduced pressure, then successively charged with dry toluene (1 mL) and concentrated (2×). Finally, anh. toluene (3 mL) was added followed by p-toluidine (0.100 g, 0.93 mmol, 3.7 equiv). The orange mixture was stirred overnight, diluted with EtOAc, washed with a 1M HCl solution and a concentrated NaCl solution, then dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by flash chromatography to give N-(2-carbomethoxy-5-tert-butyl-3-furyl)-N′-(4-methylphenyl)urea (0.080 g, 96%) as a pale yellow oil: 1H NMR (CDCl3) δ1.28 (s, 9H), 2.30 (s, 3H), 3.77 (s, 3H), 7.02 (s, 1H), 7.11 (d, J=8.1 Hz, 2H), 7.27 (d, J=8.1 Hz, 2H), 7.87 (br s, 1H), 8.68 (br s, 1H); 13C NMR (CDCl3) δ20.6, 28.3 (3C), 33.0, 51.0, 100.1, 121.4 (2C), 126.0, 129.5 (2C), 134.0, 134.8, 137.7, 152.5, 160.5, 168.2; FTIR (neat) 3400-3200 (br, m), 2966 (s), 1676 (s), 1622 (s), 1536 (s), 1306 (s), 1097 (m) cm−1.

reactant | Phosgene | 2.5 mmol, 1.93M, 1.3 mL, 10 equiv | C(=O)(Cl)Cl | CCl2O
reactant | methyl 3-amino-5-tert-butylfuran-2-carboxylate | 0.25 mmol, 0.050 g | NC1=C(OC(=C1)C(C)(C)C)C(=O)OC | C10H15NO3
reactant | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
reactant | p-toluidine | 0.93 mmol, 0.100 g, 3.7 equiv | NC1=CC=C(C=C1)C | C7H9N
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-carbomethoxy-5-tert-butyl-3-furyl)-N′-(4-methylphenyl)urea | 0.080 g, 96% | C(=O)(OC)C=1OC(=CC1NC(=O)NC1=CC=C(C=C1)C)C(C)(C)C | C18H22N2O4
